US07399778B2
To 1-[(4-methylphenyl)sulfonyl]-1H-pyrazole (0.50 g, 2.26 mmol) [J. Chem. Res., Synopses, 10, 327 (1979)] in THF (23 mL) at −78° C. was added a solution of t-butyllithium (1.7 M in pentane, 1.5 mL, 2.49 mmol) dropwise. After 10 min 2-ethylbutyraldehyde (0.31 mL, 2.49 mmol) was added. After 10 min the reaction mixture was quenched with saturated aqueous ammonium chloride (5 mL) and then diluted with H2O (30 mL) and extracted with EtOAc (3×30 mL). The organic extract was dried (Na2SO4) and concentrated. The residue was purified by column chromatography (EtOAc/hexane, 3:7) to give 0.546 g (75%) of 2-ethyl-1-{1-[(4-methylphenyl)sulfonyl]-1H-pyrazol-5-yl}butan-1-ol.

reactant | 1-[(4-methylphenyl)sulfonyl]-1H-pyrazole | 2.26 mmol, 0.50 g | CC1=CC=C(C=C1)S(=O)(=O)N1N=CC=C1 | C10H10N2O2S
reactant | t-butyllithium | 2.49 mmol, 1.7 M, 1.5 mL | C(C)(C)(C)[Li]
reactant | 2-ethylbutyraldehyde | 2.49 mmol, 0.31 mL | C(C)C(C=O)CC | C6H12O
solvent | THF | 23 mL | C1CCOC1 | C4H8O
product | 2-ethyl-1-{1-[(4-methylphenyl)sulfonyl]-1H-pyrazol-5-yl}butan-1-ol | 0.546 g, 75% | C(C)C(C(O)C1=CC=NN1S(=O)(=O)C1=CC=C(C=C1)C)CC | C16H22N2O3S
